US08236823B2
To 2-fluoro-5-(3-formylpyridin-2-yloxy)benzoic acid (230 mg, 0.881 mmol) and TosMIC (172 mg, 0.881 mmol) in DME (8.0 mL) was added DBU (0.29 mL, 1.9 mmol). The mixture was heated to 85° C. for 2.5 hours in a sealed tube. After concentrated, the residue was diluted with saturated sodium carbonate and extracted with EtOAc. The aqueous layer was acidified with TFA (pH˜3) and the resulting solid was filtered and dried to yield 2-fluoro-5-(3-(oxazol-5-yl)pyridin-2-yloxy)benzoic acid as a beige solid. MS m/z=301 [M+1]+. Calc'd for C15H9FN2O4: 300.25.

reactant | 2-fluoro-5-(3-formylpyridin-2-yloxy)benzoic acid | 0.881 mmol, 230 mg | FC1=C(C(=O)O)C=C(C=C1)OC1=NC=CC=C1C=O | C13H8FNO4
reactant | TosMIC | 0.881 mmol, 172 mg | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | DBU | 1.9 mmol, 0.29 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | 8.0 mL | COCCOC | C4H10O2
product | 2-fluoro-5-(3-(oxazol-5-yl)pyridin-2-yloxy)benzoic acid | FC1=C(C(=O)O)C=C(C=C1)OC1=NC=CC=C1C1=CN=CO1 | C15H9FN2O4
